data/oMe_Silver.jsonl
{"reaction_id": "NR-101_1-C3CCC3_2-c3ccc(C(F)(F)F)cc3","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(C3CCC3)(c3ccc(C(F)(F)F)cc3)","BrBr"],"products_smiles": ["C(Br)CC(C3CCC3)(c3ccc(C(F)(F)F)cc3)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(C3CCC3)(c3ccc(C(F)(F)F)cc3)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(C3CCC3)(c3ccc(C(F)(F)F)cc3)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(C3CCC3)(c3ccc(C(F)(F)F)cc3)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
{"reaction_id": "NR-218_1-c1ccc(OC)cc1_2-c1occc1","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(c1ccc(OC)cc1)C(=O)C(c1ccc(OC)cc1)C(=O)OCC","O=CC(c1occc1)","N"],"products_smiles": ["C1(C(c1ccc(OC)cc1)(C(NC(C(c1ccc(OC)cc1)1C(OCC)=O)(Cc1occc1))(Cc1occc1))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccc(OC)cc1)(C(N)C(c1occc1))C(=O)C(c1ccc(OC)cc1)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccc(OC)cc1)(C(N=C(Cc1occc1))C(c1occc1))C(=O)C(c1ccc(OC)cc1)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(c1ccc(OC)cc1)(C(NC(C(c1ccc(OC)cc1)1C(OCC)=O)(Cc1occc1))(Cc1occc1))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
